US06114325
[2-[[N-[2-(Dimethylamino)ethyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide hydrochloride (Compound 15)
4N Hydrochloric acid - ethyl acetate solution (0.12 ml) was added to a solution of [2-[[N-[2-(dimethylamino)ethyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide (0.200 g) in ethyl acetate (2 ml) at room temperature. After being stirred for 15 minutes, the reaction mixture was concentrated. The residue was recrystallized from ethyl acetate-ethanol mixed solvent, thereby yielding 0.205 g of the aimed compound as white crystals.

reactant | Hydrochloric acid - ethyl acetate | 4N, 0.12 ml | C(C)OC(C)=O.Cl
reactant | [2-[[N-[2-(dimethylamino)ethyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide | 0.200 g | CN(CCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC)C | C31H55N3O3
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | [2-[[N-[2-(Dimethylamino)ethyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide hydrochloride | 0.205 g | Cl.CN(CCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC)C | InChI=1S/C31H55N3O3.ClH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-21-25-34(28-35)30-23-20-19-22-29(30)27-37-31(36)32-24-26-33(2)3;/h19-20,22-23,28H,4-18,21,24-27H2,1-3H3,(H,32,36);1H
